Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:1].[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10](=[O:11])[H:12]>>[C:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10](=[O:11])[H:12],-7.033410929310001
[H:1][O:2][C:3]#[C:4][O:5][C:6]([H:7])[C:8]([H:9])([H:10])[H:11]>>[C:8]([H:9])([H:10])[H:11].[H:1][O:2][C:3]#[C:4][O:5][C:6][H:7],3.98287591932
[H:1][C:2]([C:3]#[C:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[H:11].[H:1][C:2]([C:3]#[C:4][C:5]([H:6])([H:7])[C:8]([H:9])[H:10])[C:12]([H:13])([H:14])[H:15],4.60873641876
[O:1]=[C:2]([H:3])[C:6]([H:7])([H:8])[C:9]([H:10])=[C:11][H:12].[O:4][H:5]>>[O:1][C@@:2]([H:3])([O:4][H:5])[C:6]([H:7])([H:8])[C:9]([H:10])=[C:11][H:12],-2.44841204402
[H:1][C:2]#[C:3][O:4][C:5]([O:6][H:7])[C:8]([H:9])([H:10])[H:11]>>[H:1][C:2]#[C:3][O:4][C:5](=[O:6])[C:8]([H:9])([H:10])[H:11].[H:7],0.97010162788
[H:1][C:2]([H:3])[H:4].[O:5]=[C:6][O:7][C:8]([H:9])([H:10])[H:11]>>[H:1][C:2]([H:3])([H:4])[O:5][C:6][O:7][C:8]([H:9])([H:10])[H:11],-1.53836822592
[C:10]([H:11])[H:12].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])=[C:8][H:9]>>[H:1][O:2][C:3]([H:4])([H:5])/[C:6]([H:7])=[C:8](\[H:9])[C:10]([H:11])[H:12],-5.6394668344
[H:1][C:2]#[C:3][C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]=[C:11]([H:12])[H:13].[H:4]>>[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]=[C:11]([H:12])[H:13],-1.82275410761
[C:10]([H:11])([C:12]([H:13])([H:14])[H:15])[C:16]([H:17])([H:18])[H:19].[H:1][C:2]([H:3])([H:4])[C:5][C:6]([H:7])([H:8])[H:9]>>[H:1][C:2]([H:3])([H:4])[C:5]([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([C:12]([H:13])([H:14])[H:15])[C:16]([H:17])([H:18])[H:19],-4.35294504208
[H:1][C:2]#[C:3]/[C:4](=[C:5](/[H:6])[C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[C:3]=[C:4]([C:5]([H:6])[C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14].[H:1][C:2],10.0517690459
[C:3]([H:4])([H:5])[H:6].[O:1]=[C:2][C:7]([H:8])([H:9])[O:10][C:11]([H:12])([H:13])[H:14]>>[O:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[O:10][C:11]([H:12])([H:13])[H:14],-3.87605886961
[H:15].[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[C:12]([H:13])[H:14]>>[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-4.60824523246
[H:1][O:2][C:3]([C:4]([H:5])([H:6])[C:7]([H:8])[H:9])=[C:10]=[C:11]([H:12])[H:13]>>[H:1][O:2][C@@:3]1([C:4]([H:5])([H:6])[C:7]([H:8])[H:9])[C:10][C:11]1([H:12])[H:13],3.01134555287
[C:10]([H:11])[H:12].[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7][O:8][H:9]>>[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([O:8][H:9])=[C:10]([H:11])[H:12],-7.56531852133
[H:1][C:2]/[C:3]([H:4])=[C:5](\[O:6][H:7])[C:8]([H:9])([H:10])[O:11][H:12]>>[H:1][C:2]=[C:3]([H:4])[C:5]([O:6][H:7])=[C:8]([H:9])[H:10].[O:11][H:12],3.10150115985
[C:2][C:5]([H:3])([H:4])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[H:1][C:7]([C:6])([H:8])[H:9]>>[H:1][C:2]([H:3])([H:4])[C:5]#[C:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-9.06974371
[C:3]([H:4])([H:5])[H:6].[O:1]=[C:2][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])[H:15]>>[O:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])[H:15],-3.59606458176
[C:8]([H:9])([H:10])=[C:11]([H:12])[H:13].[O:1]=[C:2][O:3][C:4]([H:5])([H:6])[H:7]>>[O:1]=[C:2]([O:3][C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13],-1.38694684851
[H:1][C:2]([H:3])=[C:4][O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[H:5]>>[H:1][C:2]([H:3])=[C:4]([H:5])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-4.82037323302
[C:1]#[C:2][O:3][C:4][C:5]([H:6])([H:7])[H:8]>>[C:1]#[C:2][O:3][C:4][C:5]([H:6])[H:7].[H:8],2.589111365
[H:1][C:2][C:3]([H:4])=[C:5]([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:3]([H:4])=[C:5]([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13].[H:1][C:2],6.294165561950001
[H:11].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])[C:12]([H:13])=[C:14]([H:15])[H:16]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])=[C:14]([H:15])[H:16],-3.66460842305
[O:1]=[C:2]([H:3])[O:4][C:5]([H:6])=[C:7]=[C:8]([H:9])[H:10]>>[C:7]=[C:8]([H:9])[H:10].[O:1]=[C:2]([H:3])[O:4][C:5][H:6],6.1831167324
[O:1]=[C:2]=[C:3]([H:4])[C:5]1[C:6][O:7]1>>[O:1]=[C:2]=[C:3]([H:4])[C:5][O:7][C:6],1.60851214512
[C:5]([H:6])#[C:7][C:8]([H:9])[H:10].[H:1][O:2][C:3]=[O:4]>>[H:1][O:2][C:3][O:4][C:5]([H:6])=[C:7]=[C:8]([H:9])[H:10],-1.04231191809
[C:12]([H:13])[H:14].[H:1][C:2]([H:3])[O:4]/[C:5]([H:6])=[C:7](\[H:8])[C:9]([H:10])[H:11]>>[H:1][C:2]([H:3])[O:4]/[C:5]([H:6])=[C:7](\[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[H:14],-4.2241584158
[H:1][C:2]([H:3])=[C:4]/[C:5]([H:6])=[C:8]/[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[H:7]>>[H:1][C:2]([H:3])=[C:4][C:5]([H:6])([H:7])[C:8][C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-1.66014814381
[H:8].[O:1]=[C:2]([H:3])[C:4][C:5]#[C:6][O:7]>>[O:1]=[C:2]([H:3])[C:4]#[C:5][C:6](=[O:7])[H:8],-3.31256929274
